US05283243
7 g (=0.035 m) of 2-chloro-2H-1,4-benzothiazine-3(4H)-one, 7.25 g (=0.035 m) of 4-(4-fluorobenzoyl)-piperidine and 7.1 g of triethylamine in 200 ml of toluene were heated at reflux for 4 hours with stirring. The reaction mixture was worked up by cooling it and then adding 200 ml of toluene and 200 ml of water. The pH of the mixture was adjusted to pH 7 by adding 0.1N hydrochloric acid solution. The organic phase was separated, washed with 200 ml of water, and the solvent was distilled off. The title compound was recovered from the remaining oily residue by fractional column chromatography, crystallized from ethyl acetate, and recrystallized in an ethanol/diethyl ether mixture. 1.95 g of 2-[4-(4-fluorobenzoyl)-piperidin-1-yl]-2H-1,4-benzothiazine-3(4H)-one were obtained as a colorless crystalline powder having a melting point of 218° C.

reactant | 2-chloro-2H-1,4-benzothiazine-3(4H)-one | 7 g | ClC1SC2=C(NC1=O)C=CC=C2 | C8H6ClNOS
reactant | 4-(4-fluorobenzoyl)-piperidine | 7.25 g | FC1=CC=C(C(=O)C2CCNCC2)C=C1 | C12H14FNO
reactant | triethylamine | 7.1 g | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 0.1N | Cl | ClH
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 200 ml | O | H2O
product | 2-[4-(4-fluorobenzoyl)-piperidin-1-yl]-2H-1,4-benzothiazine-3(4H)-one | 1.95 g | FC1=CC=C(C(=O)C2CCN(CC2)C2SC3=C(NC2=O)C=CC=C3)C=C1 | C20H19FN2O2S
